Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: sepsis/pulmonary abscess
Reason for ___ MICU transfer:  thoracic surgery eval of 
empyema and possible need for decortication
 
 
Major Surgical or Invasive Procedure:
Mechanical ventilation
 
History of Present Illness:
Mr. ___ is a ___ y/o M with COPD, EtOH abuse, DMII, possible 
cirrhosis who was originally admitted to ___ for pneumonia 
and EtOH withdrawal. Per report, he initially presented to an ED 
on ___ with SOB and cough x1 day along with n/v, night sweats, 
and decreased appetite x3 weeks. CT chest revealed large RUL 
cavitary lesion, prompting tx with levofloxacin and clindamycin 
and floor admission, though subsequent development of fever, 
tachycardia, tachypnea, and confusion prompted MICU transfer.

He has had a long, complicated MICU course over 30 days 
complicated by Aspergillus/Enterobacter/Serratia PNA further 
complicated by respiratory failure, PEA arrest, ___ requiring 
HD, sacral decubitus ulcer, and cellulitis.

By problem, his HPI is most notable for below:

# PEA arrest: Reportedly occurred ___ following intubation for 
bronchoscopy, received CPR, epi, bicarb, pulseless for 2 
minutes. Uncertain whether underwent cooling protocol.

# Aspergillus/Enterobacter abscess complicated by septic shock: 
Had been on pressors most recently through ___ including 
levophed and vasopressin. Drained 120cc purulent material via 
pleurex ___. Antibiotic regimen included vancomycin, 
ceftazidime, metronidazole, and voriconazole. Recent ___ sputum 
cultures also growing serratia, prompting broadening to bactrim 
in addition to his imipenem and voriconazole (linezolid was also 
on at some point but then discontinued). Continued 
vent-dependence, now trached, recently on PSV.

# ___: Developed oliguric renal failure with electrolyte 
abnormalities and volume overload prompting HD initiation 
through temp HD line which was ultimately exchanged for tunneled 
HD line.

# Cellulitis: LUE, improved with vancomycin and ceftazidime. RLE 
with mild erythema and extensive unstageable sacral decub ulcer, 
no underlying osteo on MRI.

# Bloody stools: Unclear when started, though notes report 
guaiac negative as recently as ___ or so.

# A-fib with RVR: He was managed with amiodarone and metoprolol, 
however amidst his septic shock these were discontinued and not 
restarted.

On arrival to the MICU, VS 101.2  162/80  106  34  68% on CMV 
100% FiO2. Upon arrival, pt was in respiratory distress, 
improved with manual bag-mask ventilation with O2 sat in ___. 
Valve on ventilator fixed, placed back on CMV with improvement 
in respiratory status.

Review of systems:  
(+) Per HPI  
(-) Unable to obtain.
 
Past Medical History:
- HTN
- HLD
- DM
- EtOH abuse
- COPD
- cirrhosis
PAST SURGERIES:
- right hand when age ___
- tonsils as child
- hernia ___
 
Social History:
___
Family History:
Unable to obtain at this time.
 
Physical Exam:
On Admission:
Vitals- 101.2  162/80  106  34  68% on CMV 450mL/16/PEEP ___/ 70% 
FiO2
GENERAL: chronically ill male, trach'd and vented, notable 
ascites, appears older than stated age. opens eyes to voice but 
not answering questions meaningfully
HEENT: Sclera anicteric 
NECK: supple, JVP not elevated, no LAD  
LUNGS: decreased breath sounds bilaterally on initial exam. 
subsequent exam with right sided crackles, rhonchi.
CV: rrr, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft but distended. no wincing to palpation. + HSM. bowel 
sounds present, no rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

On Discharge:
Patient expired
 
Pertinent Results:
On Admission:
___ 08:30PM BLOOD WBC-20.4* RBC-3.31* Hgb-9.3* Hct-30.6* 
MCV-92 MCH-28.1 MCHC-30.4* RDW-16.4* Plt ___
___ 08:30PM BLOOD Neuts-83.4* Lymphs-10.3* Monos-5.6 
Eos-0.7 Baso-0.1
___ 08:30PM BLOOD ___ PTT-25.4 ___
___ 08:30PM BLOOD Glucose-191* UreaN-52* Creat-1.7* Na-140 
K-3.6 Cl-95* HCO3-26 AnGap-23*
___ 08:30PM BLOOD ALT-36 AST-58* LD(LDH)-174 CK(CPK)-44* 
AlkPhos-296* TotBili-1.2
___ 08:30PM BLOOD Albumin-5.3* Calcium-10.1 Phos-3.8 Mg-2.0
___ 01:14AM BLOOD Lactate-1.5

Imaging/Studies:
___ CXR
The patient carries a tracheostomy tube. The hemodialysis 
catheter is inserted into the right internal jugular vein. The 
patient also carries a right PICC line. All devices are in 
correct position. Unremarkable course of a nasogastric tube. The 
known cavitary lesion in the right upper lobe appears to be 
unchanged in extent and severity. However, a relatively 
extensive parenchymal opacity at the bases of the right lung 
and, more subtle, in the perihilar regions of the left, has 
slightly increased in extent and severity. The changes are 
suspicious for a multifocal or a generalized infectious process. 
No pleural effusions. Normal size of the cardiac silhouette. 

___ CT Chest
1. Further cavitation of the right upper lobe consolidation with 
concern for developing necessitans.
2. New consolidation in the left upper lobe from 8 days prior 
consistent with infection.
3. Minimal improvement in bibasilar consolidations.
4. Resolved right pleural effusion.
5. Partially imaged cirrhosis with splenomegaly and a small 
amount of ascites.

___ CXR
As compared to the previous radiograph, no relevant change is 
seen. The
cavitating process in the right upper lobe and the associated 
parenchymal
opacities in the right lower lobe and the left lower lobe are 
unchanged in
extent and severity. The monitoring and support devices are also 
unchanged. No larger pleural effusions. No pneumothorax.  
Unchanged size of the cardiac silhouette.

___ CXR
Doubt significant change compared with ___ at 3:12 a.m. 
Findings in the right upper lobe are consistent with known 
cavitation/abscess.
Findings are delineated in more extensive detail on a chest CT 
from ___.

___ CXR
Tracheostomy has been inserted with the tip being 7.4 cm above 
the carinal. Central venous line tip terminates at the 
cavoatrial junction. Cavitary right upper lobe lesion as well as 
multifocal consolidations involving primarily lung bases and 
left apex are unchanged.

Microbiology:
___ 9:15 pm SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
AMIKACIN--------------    16 S
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------     4 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R

___ 1:32 pm BRONCHIAL WASHINGS      TRACHEA. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      ACINETOBACTER BAUMANNII.    >100,000 ORGANISMS/ML.. 
         "Note, for Amp/sulbactam, higher-than-standard dosing 
needs to be
         used, since therapeutic efficacy relies on intrinsic 
activity of
         the sulbactam component". 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         ___. ___ (___) REQUESTED FOR THE AMIKACIN
         SUSCEPTIBILITY TEST ON ___. 
         AMIKACIN sensitivity testing performed by ___. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ (___). 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ACINETOBACTER BAUMANNII
                             |   
AMIKACIN--------------       R
AMPICILLIN/SULBACTAM--     4 S
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------   =>8 R
MEROPENEM-------------     8 I
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----     8 R

___ 12:23 pm BRONCHIAL WASHINGS

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ON 
___. 
      ACINETOBACTER BAUMANNII.    10,000-100,000 ORGANISMS/ML.. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ON ___. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 
 
Brief Hospital Course:
___ y/o M with presumed cirrhosis, DMII, EtOH abuse, COPD with 
long and complicated outside hospital MICU course transferred to 
___ MICU for thoracic surgery evaluation of llarge RUL lung 
abscess. He was not felt to be a surgical candidate. He 
continued to have persistent fevers and leukocytosis despite 
targeted antibiotics. The decision was made for comfort measures 
only and he expired.

ACTIVE ISSUES:

# Sepsis with pulmonary source
He presented with sepsis evidenced by fever on arrival to MICU 
along with worsening leukocytosis to 20k. He had been off 
pressors since ___ at the OSH. He has multiple sources, but 
most notable and likely being the RUL abscess and multifocal 
pneumonia. OSH cultures grew aspergillus and enterbacter from 
the abscess and serratia from sputum. He was treated with 
voriconazole for aspergillus, meropenm for enterobacter and 
serratia, and tobramycin for presumed VAP. Vancomycin was not 
initially continued, but he had a subsequent rising leukocytosis 
so this was added. Here, he grew pseudomonas and acitentobacter 
from sputum. ID was consulted for assistance with antibiotics; 
he had multiple organisms with different sensitivity profiles, 
so antibiotics were targeted while balancing minimizing 
toxicity. However, source control was unable to be achieved 
given poor surgical candidacy. A family meeting was held given 
his poor prognosis and they and the patient reiterated that he 
did not want to be dependent upon the ventilator/HD and he was 
transitioned to comfort measures only and subsequently expired.

# Hypoxemic and hypercarbic respiratory failure
He underwent trach placement and remains ventilator dependent 
upon admission from OSH. Etiology multifactorial but most 
notably due to pulmonary abscess and multifoacal PNA in setting 
of radiographic COPD. He remained in on the ventilator while in 
the ICU on PSV. He had MV of ___ reflective are large dead 
space ventilation. He received antibiotics as below and 
albuterol/ipratropium inhalers. He underwent HD as below for 
assistance with volume removal.

# Pulmonary abscess and VAP
Described further as above. CT chest showed invasion of the 
abscess into the chest wall musculature. Thoracic surgery was 
consulted for possible surgical management. However, he was felt 
to be too high risk of a surgical candidate and this was not 
pursued.

# Unstageable sacral decubitus ulcer
Upon transfer he was found to have a large unstagable sacral 
decubitus ulcer. Acute care surgery was consulted and performed 
bedside debridements. A flexiseal was placed for fecal 
management. 

# Acute renal failure
Upon transfer he had continued oliguric ARF and was 
HD-dependent. This was felt ot be pre-renal with likely 
intrinsic renal injury from septic shock leading to ATN. He 
received HD while hospitalized and all medications were dosed 
accordingly.

# Maroon stool
He had a single maroon stool on transfer. He was hemodynamically 
stable. Etiology not clear, but CT reports do comment on sigmoid 
diverticuli. ___ have also been from ischemi colitis. C. diff 
was negative. 

# Atrial fibrillation
He remained hemodynamically stable. Amiodarone and metoprolol 
had been held at ___ amidst his septic physiology. 
Developed RVR and was restarted on metoprolol. 

# Foley trauma
Had hematuria from Foley trauma. Foley remained in place 
throughout hospitalization.

CHRONIC ISSUES:

# HTN: Held home atenolol

# HLD: held home simvastatin.

# DM: HISS.

# EtOH abuse: Outside of withdrawal window, though had been on 
midazolam recently, had no evidence of withdrawal while here.

# COPD: Albuterol/ipratropium as above

# Cirrhosis: Presumably EtOH-induced but not certain. INR 1.5 
but platelets in 200s suggesting some preserved synthetic 
function.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 25 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
Patient expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Severe sepsis from pulmonary source
Pulmonary abscess
Ventilator associated pneumonia
Acute renal failure
 
Discharge Condition:
Patient expired
 
Discharge Instructions:
Patient expired
 
Followup Instructions:
___